US07425568B2
b) 6-Hydroxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one
6-Methoxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one (1.0 g) was refluxed with 47% HBr (20 ml) until disappearance of the starting material. The mixture was poured into water and extracted with ethyl acetate. Ethyl acetate was dried and evaporated. The product was recrystallised from toluene. 1H NMR (400 MHz, d6-DMSO) δ: 10.35 (s, 1H), 7.79 (d, 1H, J 8.6 Hz), 7.15-7.33 (m, 5H), 6.75 (dd, 1H, J 8.6, 2.4 Hz), 6.68 (d, 1H, J 2.3 Hz), 3.79-3.85 (m, 1H), 2.99-3.06 (m, 1H), 2.83-2.90 (m, 1H), 2.19-2.33 (m, 2H).

reactant | 6-Methoxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one | 1.0 g | COC=1C=C2CCC(C(C2=CC1)=O)C1=CC=CC=C1 | C17H16O2
reactant | HBr | 20 ml | Br | BrH
solvent | water | O | H2O
product | 6-Hydroxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one | OC=1C=C2CCC(C(C2=CC1)=O)C1=CC=CC=C1 | C16H14O2
